US08877944B2
2-(3-Amino-propylamino)-N-(6-oxo-5,6-dihydro-phenanthridin-2-yl)-acetamide hydrochloride
(3-{[(6-oxo-5,6-dihydro-phenanthridin-2-ylcarbamoyl)-methyl]-amino}-propyl)-carbamic acid tert-butyl ester (32 mg, 0.075 mmol) was dissolved in dichloromethane (1 mL) and 4N hydrochloric acid in dioxane (1 mL) was added. The reaction mixture was stirred at room temperature overnight and then evaporated, affording 32 mg (97% yield) of the title compound.

reactant | (3-{[(6-oxo-5,6-dihydro-phenanthridin-2-ylcarbamoyl)-methyl]-amino}-propyl)-carbamic acid tert-butyl ester | 0.075 mmol, 32 mg | C(C)(C)(C)OC(NCCCNCC(NC1=CC=2C3=CC=CC=C3C(NC2C=C1)=O)=O)=O | C23H28N4O4
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-(3-Amino-propylamino)-N-(6-oxo-5,6-dihydro-phenanthridin-2-yl)-acetamide hydrochloride | 32 mg, 97% yield | Cl.NCCCNCC(=O)NC1=CC=2C3=CC=CC=C3C(NC2C=C1)=O | InChI=1S/C18H20N4O2.ClH/c19-8-3-9-20-11-17(23)21-12-6-7-16-15(10-12)13-4-1-2-5-14(13)18(24)22-16;/h1-2,4-7,10,20H,3,8-9,11,19H2,(H,21,23)(H,22,24);1H
